US07759518B2
Step A: 2,3-Difluoro-N-(2-fluoro-4-iodophenyl)-6-nitroaniline
To a solution of 2-fluoro-4-iodoaniline (11.40 g, 47 mmol) in 100 ml anhydrous THF at 0° C., 47 ml of a 1M solution of LHMDS in THF (47 mmol) was added dropwise. The color of the solution turned dark purple. The solution was transferred via cannula to a dropping funnel, and the solution (containing the amine free base) was added in small portions to a solution of 2,3,4-trifluoronitrobenzene (8.321 g, 47.0 mmol) in anhydrous THF (50 ml) at 0° C. After completion of addition the mixture was stirred under argon at room temperature for 15 hours. The volume of the solvent was reduced, followed by extraction using ethyl acetate and brine. The organic layer was dried over sodium sulfate, the solvent was removed, and the obtained dark oil was purified by flash chromatography (EtOAc/hexane 1:5, Rf=0.58) yielding the crude product, which became a brown solid upon drying in vacuo (yield: 6.23 g, 33.6%): m/z=393 [M−1]−.

reactant | 2-fluoro-4-iodoaniline | 47 mmol, 11.40 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2,3,4-trifluoronitrobenzene | 47.0 mmol, 8.321 g | FC1=C(C=CC(=C1F)F)[N+](=O)[O-] | C6H2F3NO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 47 mmol | C1CCOC1 | C4H8O
product | 2,3-Difluoro-N-(2-fluoro-4-iodophenyl)-6-nitroaniline | FC1=C(NC2=C(C=C(C=C2)I)F)C(=CC=C1F)[N+](=O)[O-] | C12H6F3IN2O2
